US08034953B2
Step 1. 4-Benzyl-3-[4-(benzylamino)-1,2,5-oxadiazol-3-yl]-1,2,4-oxadiazol-5(4H)-one
A solution of 3-(4-amino-1,2,5-oxadiazol-3-yl)-4-benzyl-1,2,4-oxadiazol-5(4H)-one (60.0 mg, 0.231 mmol) and benzyl bromide (28 μL, 0.23 mmol) was heated at 150° C. for 5 h. Additional benzyl bromide (28 μL) was added to the incomplete reaction and heating was continued for another 16 h. Purification of the crude reaction mixture by preparative HPLC gave the desired product (12 mg, 15%). LCMS for C18H16N5O3 (M+H)+: m/z=349.9.

reactant | 3-(4-amino-1,2,5-oxadiazol-3-yl)-4-benzyl-1,2,4-oxadiazol-5(4H)-one | 0.231 mmol, 60.0 mg | NC=1C(=NON1)C1=NOC(N1CC1=CC=CC=C1)=O | C11H9N5O3
reactant | benzyl bromide | 0.23 mmol, 28 μL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | benzyl bromide | 28 μL | C(C1=CC=CC=C1)Br | C7H7Br
product | 4-Benzyl-3-[4-(benzylamino)-1,2,5-oxadiazol-3-yl]-1,2,4-oxadiazol-5(4H)-one | 12 mg, 15% | C(C1=CC=CC=C1)N1C(=NOC1=O)C1=NON=C1NCC1=CC=CC=C1 | C18H15N5O3
